US08426411B2
To a solution of 5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (0.338 g, 1.09 mmol, Adesis) in THF (5.5 mL) at about −78° C. was added sec-butyllithium (1.015 mL, 1.421 mmol) drop-wise. The reaction mixture was stirred at about −78° C. for about 1 h then a suspension of tert-butyl 4-(2-chloro-2-oxoethyl)piperidine-1-carboxylate (0.429 g, 1.64 mmol, Preparation #WWWW.1) in THF (2 mL) was added. The reaction mixture was stirred at about −78° C. for about 1 h then allowed to reach ambient temperature. Water (5 mL) was added and the product was extracted into DCM (3×10 mL). The combined organic extracts were washed with brine and dried over anhydrous MgSO4, filtered, and concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with 0-30% EtOAc in heptane to afford tert-butyl 4-(2-(5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)-2-oxoethyl)piperidine-1-carboxylate (0.147 g, 25%) as a colorless oil: LC/MS (Table 1, Method r) Rt=3.97 min; MS m/z: 534/536 (M+H)+

reactant | 5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 1.09 mmol, 0.338 g | ClC=1C=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
reactant | sec-butyllithium | 1.421 mmol, 1.015 mL | C(C)(CC)[Li]
reactant | tert-butyl 4-(2-chloro-2-oxoethyl)piperidine-1-carboxylate | 1.64 mmol, 0.429 g | ClC(CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C12H20ClNO3
reactant | Water | 5 mL | O | H2O
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-(5-chloro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-4-yl)-2-oxoethyl)piperidine-1-carboxylate | 0.147 g, 25% | ClC=1C(=C2C(=NC1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)C(CC2CCN(CC2)C(=O)OC(C)(C)C)=O | C28H44ClN3O3Si
